US05250547
To a solution of 2,2,3-trimethyl-3,4-dihydro-2H-1-benzopyran-4-one (81 g, 0.426 mol) in concentrated sulfuric acid (695 ml) at 0° C. was added a solution containing concentrated sulfuric acid (30 ml) and nitric acid (65%, 175 ml) while maintaining the temperature below 5° C. After stirring for three hours at 5° C., the mixture was added to ice/water and the crude product recovered by filtration. This product was dried and washed with diisopropyl ether to give 44 g of 6-nitro-2,2,3-trimethyl-3,4-dihydro-2H-1-benzopyran-4-one, m.p. 78° C.

reactant | 2,2,3-trimethyl-3,4-dihydro-2H-1-benzopyran-4-one | 0.426 mol, 81 g | CC1(OC2=C(C(C1C)=O)C=CC=C2)C | C12H14O2
reactant | nitric acid | 175 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 695 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
product | 6-nitro-2,2,3-trimethyl-3,4-dihydro-2H-1-benzopyran-4-one | 44 g | [N+](=O)([O-])C=1C=CC2=C(C(C(C(O2)(C)C)C)=O)C1 | C12H13NO4
